US06995144B2
(E)-5-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-1H,3H-pyrimidine-2,4-dione
After dissolving 100 mg of (E)-4-[2-(2-fluorophenyl)vinyl]piperidine in 3 ml of tetrahydrofuran, 116 mg of 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxaldehyde, 0.05 ml of acetic acid and 198 mg of sodium triacetoxyborohydride were added while stirring, and the stirring was continued for 20 hours at room temperature. An additional 200 mg of sodium triacetoxyborohydride was then added and the mixture was stirred overnight at room temperature. Aqueous sodium carbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: tetrahydrofuran/methanol). Ethyl acetate was added and the mixture was filtered to obtain the title compound (90 mg, 38% yield).

reactant | (E)-4-[2-(2-fluorophenyl)vinyl]piperidine | 100 mg | FC1=C(C=CC=C1)/C=C/C1CCNCC1 | C13H16FN
reactant | 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxaldehyde | 116 mg | O=C1NC=C(C(N1)=O)C=O | C5H4N2O3
reactant | sodium triacetoxyborohydride | 198 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 200 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | (E)-5-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-1H,3H-pyrimidine-2,4-dione | 90 mg, 38% yield | FC1=C(C=CC=C1)/C=C/C1CCN(CC1)CC=1C(NC(NC1)=O)=O | C18H20FN3O2
